US07285663B2
3,3′-Bis(1,3-dioxoindan-2-ylidene)-[1,1′]biisoindolylidene
10.0 g of [1,1′]biisoindolylidene-3,3′-diimine and 16.9 g of 1,3-dioxoindane are stirred in a mixture of 100 ml of NMP and 100 ml of glacial acetic acid at reflux for 6 hours. After cooling to room temperature the suspension is filtered, the filter product is washed with a mixture of NMP and glacial acetic acid (1:1), subsequently ethanol and then water and dried at 60° C. This gives 10.8 g (54%) of a black powder of a compound of the following formula

reactant | [1,1′]biisoindolylidene-3,3′-diimine | 10.0 g | C1(NC(C2=CC=CC=C12)=N)=C1NC(C2=CC=CC=C12)=N | C16H12N4
reactant | 1,3-dioxoindane | 16.9 g | O=C1CC(C2=CC=CC=C12)=O | C9H6O2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | NMP | 100 ml | CN1CCCC1=O | C5H9NO
product | 3,3′-Bis(1,3-dioxoindan-2-ylidene)-[1,1′]biisoindolylidene | O=C1C(C(C2=CC=CC=C12)=O)=C1NC(C2=CC=CC=C12)=C1NC(C2=CC=CC=C12)=C1C(C2=CC=CC=C2C1=O)=O | C34H18N2O4
